US05470845
A. 4-(3-Phenoxyphenyl)butyl alcohol
Sodium borohydride (961 mg, 25.3 mmol) was added in one portion to a solution of 3-phenoxybenzaldehyde (10.0 g, 50.5 mmol) in methanol (150 mL) at RT under argon. Once the bubbling ceased, the reaction was stirred at RT for 5 min, then adjusted to pH 6 with glacial acetic acid (about 1 mL). The reaction was concentrated in vacuo to give a residue, which was partitioned between EtOAc (200 mL) and saturated NaHCO3 (50 mL). The organic layer was washed with water and brine (50 mL each), then dried over MgSO4. Evaporation gave title compound (10.1 g, 100%) as a tan oil.

reactant | Sodium borohydride | 25.3 mmol, 961 mg | [BH4-].[Na+]
reactant | 3-phenoxybenzaldehyde | 50.5 mmol, 10.0 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | acetic acid | about 1 mL | C(C)(=O)O | C2H4O2
reactant | methanol | 150 mL | CO | CH4O
product | 4-(3-Phenoxyphenyl)butyl alcohol | 10.1 g, 100% | O(C1=CC=CC=C1)C=1C=C(C=CC1)CCCCO | C16H18O2
